* C:\Users\ariel\InformesTC\TP3\EJ3\tp3 ej3\ej3 tp3 nada ideal.asc
R3 N002 N001 12k
R4 N001 N005 1k
R6 N005 N006 1k
R7 N006 N007 12k
R1 N003 N002 1k
R2 Vout N003 10k
R8 N004 N007 1k
R9 N008 N004 10k
V1 vcc+ 0 15
V2 0 vcc- 15
RL Vout 0 10K
V3 comun 0 SINE(0 1 100) AC 1
R5 N005 vfeed 800
XU2 N008 0 vcc+ vcc- vfeed TL084
XU3 comun N001 vcc+ vcc- N002 TL084
XU4 comun N006 vcc+ vcc- N007 TL084
XU1 N004 N003 vcc+ vcc- Vout TL084
.inc opamp.sub
.inc C:\Users\ariel\InformesTC\TP3\EJ3\tp3 ej3\TL084.301
.ac dec 100000 100 20000000000
.backanno
.end
